US06924300B2
Lithium hydroxide monohydrate (153 mg) was added to a solution of ethyl E-8-[4-[5-methyl-2-(2-thienyl)-4-oxazolylmethoxy]benzyloxyimino]-8-phenyloctanoate (682 mg) in tetrahydrofuran (6 ml)-water (4 ml)-ethanol (4 ml) and stirred at room temperature for 4 hours. 1N hydrochloric acid (3.7 ml) was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain E-8-[4-[5-methyl-2-(2-thienyl)-4-oxazolylmethoxy]benzyloxyimino]-8-phenyloctanoic acid (567 mg, yield 87%) as colorless crystals. m.p. 106-108° C.

reactant | Lithium hydroxide monohydrate | 153 mg | O.[OH-].[Li+]
reactant | ethyl E-8-[4-[5-methyl-2-(2-thienyl)-4-oxazolylmethoxy]benzyloxyimino]-8-phenyloctanoate | 682 mg | CC1=C(N=C(O1)C=1SC=CC1)COC1=CC=C(CO\N=C(/CCCCCCC(=O)OCC)\C2=CC=CC=C2)C=C1 | C32H36N2O5S
reactant | water | 4 ml | O | H2O
reactant | hydrochloric acid | 1N, 3.7 ml | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | E-8-[4-[5-methyl-2-(2-thienyl)-4-oxazolylmethoxy]benzyloxyimino]-8-phenyloctanoic acid | 567 mg, yield 87% | CC1=C(N=C(O1)C=1SC=CC1)COC1=CC=C(CO\N=C(/CCCCCCC(=O)O)\C2=CC=CC=C2)C=C1 | C30H32N2O5S
